US09359375B2
A solution of 2-bromo-4-fluorobenzonitrile (200 mg, 1.00 mmol), D-alanine amide hydrochloride (148 mg, 1.19 mmol) and DIEA (0.620 mL, 3.56 mmol) in DMSO (3 mL) was stirred at 100 C for 18 h. EtOAc and water were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silicsa gel column, eluted first with 30% EtOAc in hexane, then with 100% EtOAc to give (R)-2-(3-bromo-4-cyanophenylamino)propanamide (185 mg).

reactant | 2-bromo-4-fluorobenzonitrile | 1.00 mmol, 200 mg | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | D-alanine amide hydrochloride | 1.19 mmol, 148 mg | Cl.N[C@H](C)C(=O)N
reactant | DIEA | 3.56 mmol, 0.620 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (R)-2-(3-bromo-4-cyanophenylamino)propanamide | 185 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)C | C10H10BrN3O
